US04031093
Ethyl 1,6-dihydro- 6-oxo-2-(5-carbethoxy-2-ethoxyphenyl)pyrimidine-5-carboxylate (benzamidine free base)
Diethyl ethoxymethylenemalonate (1.18 g., 5.45 mmoles) was added to a cold, stirred mixture of sodium ethoxide (0.37 g., 5.45 mmoles) and 5-carbomethoxy-2-ethoxybenzamidine (1.21 g., 5.45 mmoles) in ethanol (15 ml.). The mixture was heated under reflux for 0.5 hours. The cooled mixture was poured onto ice-water and acidified with acetic acid. The precipitate was recrystallized from ethanol to give the title compound (1.49 g., 76%) as colorless crystals, m.p. 180°-181.5°.

reactant | Diethyl ethoxymethylenemalonate | 5.45 mmoles, 1.18 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | sodium ethoxide | 5.45 mmoles, 0.37 g | [O-]CC.[Na+]
reactant | 5-carbomethoxy-2-ethoxybenzamidine | 5.45 mmoles, 1.21 g | C(=O)(OC)C=1C=CC(=C(C(=N)N)C1)OCC | C11H14N2O3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 15 ml | C(C)O | C2H6O
product | Ethyl 1,6-dihydro- 6-oxo-2-(5-carbethoxy-2-ethoxyphenyl)pyrimidine-5-carboxylate | 1.49 g, 76% | O=C1C(=CN=C(N1)C1=C(C=CC(=C1)C(=O)OCC)OCC)C(=O)OCC | C18H20N2O6
